US05968955
1) (±)-2-(4-Benzyl-piperidin-1-yl)-1-(3-bromo-isoxazol-5-yl) -ethan-1-ol
A solution of 6.0 g of 1-(3-bromoisoxazol-5-yl)-2-bromoethanol and 11.7 ml of 4-benzylpiperidine in 150 ml of ethanol was refluxed for 2 hours.

reactant | 1-(3-bromoisoxazol-5-yl)-2-bromoethanol | 6.0 g | BrC1=NOC(=C1)C(CBr)O | C5H5Br2NO2
reactant | 4-benzylpiperidine | 11.7 ml | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (±)-2-(4-Benzyl-piperidin-1-yl)-1-(3-bromo-isoxazol-5-yl) -ethan-1-ol | C(C1=CC=CC=C1)C1CCN(CC1)CC(O)C1=CC(=NO1)Br | C17H21BrN2O2
